US05665718
1.1 g (6.5 mmol) of chloroacetic anhydride were added under argon to a suspension of 1.68 g (5.65 mmol) of (E)- and/or (Z)-(S)-1-(amino-hydroximino-methyl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 11 ml of dimethylformamide and the mixture was stirred at about 25° for 30 min. and thereupon heated to 110° for 1 hr. The solution was evaporated in a high vacuum and the brown residue was taken up in 20 ml of methylene chloride. The solution was washed three times with 10 ml of saturated sodium hydrogen carbonate solution and the solvent was removed in a vacuum. The crude material was chromatographed on 100 g of silica gel (methylene chloride/acetone 9:1, then 4:1). There were obtained 1.45 g (72%) of (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one as colourless crystals of m.p. 205°-206° (acetonitrile).

reactant | chloroacetic anhydride | 6.5 mmol, 1.1 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-(S)-1-(amino-hydroximino-methyl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | N\C(\C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1)=N/O | C15H15N5O2
solvent | dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 1.45 g, 72% | ClCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C17H14ClN5O2
